US06635657B1
C. N-(5-Chloropyridin-2-yl)-4-methoxycarbonyl-2-(piperidin-4-ylmethylamino)benzamide
Using a similar procedure to that described in Example 47-C&D, 2-amino-N-(5-chloropyridin-2-yl)-4-methoxycarbonylbenzamide (1.00 g, 3.28 mmol), 1-tert-butoxycarbonylpiperidine-4-carboxaldehyde (1.05 g, 4.92 mmol), and borane trimethylamine complex (717 mg, 9.94 mmol) afforded 1.10 g (84%) of the title compound.

reactant | 2-amino-N-(5-chloropyridin-2-yl)-4-methoxycarbonylbenzamide | 3.28 mmol, 1.00 g | NC1=C(C(=O)NC2=NC=C(C=C2)Cl)C=CC(=C1)C(=O)OC | C14H12ClN3O3
reactant | 1-tert-butoxycarbonylpiperidine-4-carboxaldehyde | 4.92 mmol, 1.05 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C=O | C11H19NO3
reactant | borane trimethylamine complex | 9.94 mmol, 717 mg | [B-][N+](C)(C)C | C3H9BN
product | N-(5-Chloropyridin-2-yl)-4-methoxycarbonyl-2-(piperidin-4-ylmethylamino)benzamide | 1.10 g, 84% | ClC=1C=CC(=NC1)NC(C1=C(C=C(C=C1)C(=O)OC)NCC1CCNCC1)=O | C20H23ClN4O3
